US04996205
To magnesium turnings (1.9 g) in 10 ml of diethyl ether and 10 ml of tetrahydrofuran, was added a solution of 11.66 g of 3-diethylaminopropyl chloride in 10 ml of tetrahydrofuran. The reaction was initiated by the addition of 1 ml of dibromoethane and the application of heat. After stirring at 70° C. for four hours, the reaction mixture cooled to room temperature and treated, dropwise, with a solution of 7.7 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 50 ml of tetrahydrofuran. The mixture was then stirred at room temperature for two hours, poured into an iced ammonium chloride solution, and extracted with ethyl acetate (3×). The combined extracts were washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. High pressure liquid chromatography of the concentrate (silica gel; elution with 15% methanol/dichloromethane) afforded 10-[3-(N,N-diethylamino)propyl]-5-methyl-5H-pyrido[3,4-f]pyrrolo-[1,2-b] [1,2,5]triazepine as an oil. The oil was dissolved in ethanol and acidified with an ethanol solution of fumaric acid. Diluting with diethyl ether precipitated 3.05 g of the corresponding sesquifumarate salt, mp 170°-172° C.

reactant | magnesium | 1.9 g | [Mg] | Mg
reactant | 3-diethylaminopropyl chloride | 11.66 g | C(C)N(CCCCl)CC | C7H16ClN
reactant | dibromoethane | 1 ml | BrC(C)Br | C2H4Br2
reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 7.7 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 10-[3-(N,N-diethylamino)propyl]-5-methyl-5H-pyrido[3,4-f]pyrrolo-[1,2-b] [1,2,5]triazepine | C(C)N(CC)CCCC=1C=2N(N(C3=C(N1)C=NC=C3)C)C=CC2 | C18H25N5
